* /Users/manoelribeiroalmeida/dev/trit/LTspice/TOR.asc
.subckt TOR a b vcc vee out
XU1 a b vcc vee P001 TNOR
XU2 P001 vcc vee Out TNOT
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOR.sub
.lib /Users/manoelribeiroalmeida/dev/trit/LTspice/TNOT.sub
.backanno
.ends